US05939413
To an ice-cooled solution of (5R)-4-[3,5-bis(trifluoromethyl)benzoyl]-1-(carboxymethyl)-5-(1H-indol-3-ylmethyl)piperazin-2-one (0.15 g) and 1-hydroxybenzotriazole (0.038 g) in dichloromethane (3 ml) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.055 g). After the solution was stirred for 2 hours and 55 minutes at the same temperature, 28% aqueous ammonia solution (0.017 ml) was added into the mixture under ice-cooling. The mixture was stirred for 2 hours and 25 minutes at room temperature. After evaporation of the solvent, the residue was extracted with ethyl acetate. The organic layer was washed successively with aqueous sodium bicarbonate solution, water and brine, and dried over magnesium sulfate. After evaporation in vacuo, the residue was purified by column chromatography on silica gel (10 g) eluting with a mixture of dichloromethane-methanol (from 0c to 5% gradient solution). To the eluate containing objective product was added diisopropyl ether and the resulting precipitates were collected by filtration, washed with diisopropyl ether, and dried to give (5R)-4-[3,5-bis(trifluoromethyl)benzoyl]-1-(carbamoylmethyl)-5-(1H-indol-3-ylmethyl)piperazin-2-one (0.10 g) as an amorphous solid.

reactant | (5R)-4-[3,5-bis(trifluoromethyl)benzoyl]-1-(carboxymethyl)-5-(1H-indol-3-ylmethyl)piperazin-2-one | 0.15 g | FC(C=1C=C(C(=O)N2CC(N(C[C@H]2CC2=CNC3=CC=CC=C23)CC(=O)O)=O)C=C(C1)C(F)(F)F)(F)F | C24H19F6N3O4
reactant | 1-hydroxybenzotriazole | 0.038 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.055 g | Cl.CN(CCCN=C=NCC)C
reactant | ammonia | 0.017 ml | N | H3N
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (5R)-4-[3,5-bis(trifluoromethyl)benzoyl]-1-(carbamoylmethyl)-5-(1H-indol-3-ylmethyl)piperazin-2-one | 0.10 g | FC(C=1C=C(C(=O)N2CC(N(C[C@H]2CC2=CNC3=CC=CC=C23)CC(N)=O)=O)C=C(C1)C(F)(F)F)(F)F | C24H20F6N4O3
